US05589478
To a solution of 4-tert-butyl-N-[6-(2-hydroxyethoxy)pyrimidin-4-yl)benzenesulfonamide (210 mg) in dimethylformamide (4 ml) is added N-bromosuccinimide (116 mg), and the mixture is stirred at room temperature for one hour. The mixture is treated with aqueous sodium hydrogen sulfite solution, and extracted with ethyl acetate. The ethyl acetate layer is washed, dried and evaporated to remove the solvent. The residue is purified by silica gel column chromatography (solvent; chloroform/methanol=40:1), and recrystallized from hexane/ethyl acetate to give N-[5-bromo-6-(2-hydroxyethoxy)pyrimidin-4-yl]-4-tert-butylbenzenesulfonamide (169 mg).

reactant | 4-tert-butyl-N-[6-(2-hydroxyethoxy)pyrimidin-4-yl)benzenesulfonamide | 210 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1)OCCO | C16H21N3O4S
reactant | N-bromosuccinimide | 116 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium hydrogen sulfite | S(=O)(O)[O-].[Na+]
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | N-[5-bromo-6-(2-hydroxyethoxy)pyrimidin-4-yl]-4-tert-butylbenzenesulfonamide | 169 mg | BrC=1C(=NC=NC1OCCO)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C | C16H20BrN3O4S
